US07897766B2
5-Chlorothiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 5-chlorothiophene-2-carboxylic acid (Aldrich) according to methods A and C; yield 62 mg, 0.19 mmol (59%): 1H NMR (300 MHz, methanol-d4) δ 2.05-2.26 (m, 5H), 2.43 (s, 2H), 3.47 (d, J=13 Hz, 2H), 3.54 (s, 2H), 3.78 (d, J=13 Hz, 2H), 4.21 (t, J=3 Hz, 1H), 7.04 (d, J=4 Hz, 1H), 7.70 (d, J=4 Hz, 1H); MS (DCI/NH3) m/z 297, 299 (M+H)+; Anal. C14H17ClN2OS.HCl: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 5-chlorothiophene-2-carboxylic acid | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | NH3 | N | H3N
product | 5-Chlorothiophene-2-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C=2SC(=CC2)Cl | InChI=1S/C14H17ClN2OS.ClH/c15-12-2-1-11(19-12)14(18)16-13-9-3-8-4-10(13)7-17(5-8)6-9;/h1-2,8-10,13H,3-7H2,(H,16,18);1H/t8?,9?,10?,13-;
